US04767760
A mixture of 4.7 parts of aluminum trichloride and 67.5 parts of benzene was stirred in an ice bath till a temperature of ±10° C. A solution of 4.9 parts of 2,6-dichloro-α-(4-chlorophenyl)-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)benzeneacetylchloride in 22.5 parts of benzene was added dropwise during a period of 15 minutes at this low temperature (exothermic reaction). Upon complete addition, stirring was continued for 20 hours at room temperature. The reaction mixture was poured into 500 parts of ice water and the whole was acidified with concentrated hydrochloric acid. The product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by filtration over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was further purified three times by column chromatography over silica gel using first a mixture of trichloromethane and methanol (97:3 by volume) and then a mixture of trichloromethane and methanol (99:1 by volume) and finally a mixture of trichloromethane and ethyl acetate (92.5:7.5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated in vacuo. The residue was crystallized from 8 parts of ethanol. The product was filtered off, washed with 2,2'-oxybispropane and dried, yielding 0.7 parts (13.0%) of 2-[3,5-dichloro-4-[1-(4-chlorophenyl)-2-oxo-2-phenylethyl]phenyl]-1,2,4-triazine-3,5(2H,4H)-dione; mp. 143.0° C. (intermediate 41).

reactant | aluminum trichloride | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 2,6-dichloro-α-(4-chlorophenyl)-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)benzeneacetylchloride | ClC1=C(C(=CC(=C1)N1N=CC(NC1=O)=O)Cl)C(C(=O)Cl)C1=CC=C(C=C1)Cl | C17H9Cl4N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-[3,5-dichloro-4-[1-(4-chlorophenyl)-2-oxo-2-phenylethyl]phenyl]-1,2,4-triazine-3,5(2H,4H)-dione | 13.0% | ClC=1C=C(C=C(C1C(C(C1=CC=CC=C1)=O)C1=CC=C(C=C1)Cl)Cl)N1N=CC(NC1=O)=O | C23H14Cl3N3O3
